US06727264B1
6-CHLORO-1-(3-CHLOROPHENYL)-1H-INDOLE:
Prepared by Procedure C and Scheme O using 6-chloro-1H-indole and 1-chloro-3-iodobenzene: ESMS m/e: 261.9 (M+H)+.

reactant | 6-chloro-1H-indole | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
reactant | 1-chloro-3-iodobenzene | ClC1=CC(=CC=C1)I | C6H4ClI
product | 6-CHLORO-1-(3-CHLOROPHENYL)-1H-INDOLE | ClC1=CC=C2C=CN(C2=C1)C1=CC(=CC=C1)Cl | C14H9Cl2N
